US09303002B2
5,5′-(thiobis(ethane-2,1-diyl))bis(1,3,4-thiadiazol-2-amine) (I-2)
A mixture of 3,3′-thiodipropanoic acid (1 equivalent) and thiosemicarbazide (2 equivalents) were taken in POCl3 (10 fold) and stirred at 90° C. for 3 h. The reaction mixture was cooled to room temperature and poured on to ice. The resulting mixture was filtered and then brought to pH 14 using KOH. The white solid that was formed was filtered, washed with water and dried to afford the desired product I-2 in 50-60% yield. This material was used as such for the next step.

reactant | 3,3′-thiodipropanoic acid | 1 equivalent | S(CCC(=O)O)CCC(=O)O | C6H10O4S
reactant | thiosemicarbazide | 2 equivalents | NNC(=S)N | CH5N3S
solvent | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 5,5′-(thiobis(ethane-2,1-diyl))bis(1,3,4-thiadiazol-2-amine) | 50-60% yield | S(CCC1=NN=C(S1)N)CCC1=NN=C(S1)N | C8H12N6S3
